US07442708B2
Ethyl 2-({[3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carbonyl}amino)acetate
This compound is obtained according to the same method as the preceding compound, by coupling 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylic acid with ethyl glycinate hydrochloride.

reactant | 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylic acid | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)C(=O)O)C)C=CC1[N+](=O)[O-] | C18H14N2O6
reactant | ethyl glycinate hydrochloride | Cl.NCC(=O)OCC
product | Ethyl 2-({[3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]carbonyl}amino)acetate | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)C(=O)NCC(=O)OCC)C)C=CC1[N+](=O)[O-] | C22H21N3O7
